US08748429B2
(E)-methyl 2-((7S,8S)-8-(tert-butoxycarbonylamino)-7-(2,3-difluorophenyl)-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-4-ylidene)acetate
A mixture of (6S,7S,E)-methyl 7-(4-bromothiazol-5-yl)-7-(tert-butoxycarbonylamino)-6-(2,3-difluorophenyl)hept-2-enoate (0.217 g, 0.409 mmol), bis(tri-t-butylphosphine)palladium (0) (0.021 g, 0.041 mmol) and methyl dicyclohexylamine (0.096 mL, 0.450 mmol) in dioxane (10 mL) (degassed with nitrogen) was heated at 140° C. under microwave radiation for 1 h under nitrogen. The solvent was removed under vacuum and the product was purified by flash chromatography eluting with ethyl acetate in hexane from 0 to 45% to afford the desired product (53.4 mg, 29%), (M+H=451.20), as well as the isomerized product (double bond moved into the ring) (108.8 mg, 59%) as the major component.

reactant | (6S,7S,E)-methyl 7-(4-bromothiazol-5-yl)-7-(tert-butoxycarbonylamino)-6-(2,3-difluorophenyl)hept-2-enoate | 0.409 mmol, 0.217 g | BrC=1N=CSC1[C@H]([C@@H](CC/C=C/C(=O)OC)C1=C(C(=CC=C1)F)F)NC(=O)OC(C)(C)C | C22H25BrF2N2O4S
reactant | methyl dicyclohexylamine | 0.450 mmol, 0.096 mL | CN(C1CCCCC1)C1CCCCC1 | C13H25N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tri-t-butylphosphine)palladium | 0.041 mmol, 0.021 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | (E)-methyl 2-((7S,8S)-8-(tert-butoxycarbonylamino)-7-(2,3-difluorophenyl)-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-4-ylidene)acetate | 53.4 mg, 29% | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC/C(/C=2N=CSC21)=C\C(=O)OC)C2=C(C(=CC=C2)F)F | C22H24F2N2O4S
